US04659711
A 250 ml pyrex heavy-walled pressure bottle is charged with 50 ml of dioxane, 3 ml of concentrated sulfuric acid, 1.3 g (0.01 mole) of piperazic acid (II-A) and approximately 75 ml of isobutylene, liquified by passage into a large test-tube cooled in a dry ice-acetone bath. The bottle is closed with a rubber stopper, clamped securely in place, and is shaken mechanically at room temperature overnight. The bottle is chilled in an ice bath and opened. The contents are poured into a separatory funnel containing a cold mixture of 200 ml of ether and 125 ml of 1N sodium hydroxide. The aqueous layer is washed with ether. The combined ethereal solution is dried over sodium sulfate and evaporated under vacuum to afford an oil, which is dissolved in 25 ml of ether. Addition of dry hydrogen chloride gives 1.3 g of crystalline piperazic acid t-butyl ester dihydrochloride salt (II-B).

reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | piperazic acid | 0.01 mole, 1.3 g | N1(CCNCC1)C(=O)O | C5H10N2O2
reactant | isobutylene | approximately 75 ml | CC(C)=C | C4H8
reactant | sodium hydroxide | 1N, 125 ml | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | piperazic acid t-butyl ester dihydrochloride salt | 1.3 g | Cl.Cl.C(C)(C)(C)OC(=O)N1CCNCC1 | InChI=1S/C9H18N2O2.2ClH/c1-9(2,3)13-8(12)11-6-4-10-5-7-11;;/h10H,4-7H2,1-3H3;2*1H
